US08835472B2
2-((tert-Butyldimethylsilyl)ethynyl)-5-p-tolylpyridine
4.6 g (15.00 mmol) 5-bromo-2-((tert-butyldimethylsilyl)ethynyl)pyridine are added to 12 mL methanol and 50 mL 1,4-dioxane. Then the mixture is charged with 2.40 g (17.3 mmol) p-tolyl-boronic acid, 0.1 g (0.15 mmol) bis(triphenyphosphine)-dichloropalladium and 16.5 mL (33.0 mmol) of a 2N aq. Na2CO3 solution. The reaction mixture is stirred at reflux for 2 h. Then the solvent is removed in vacuo to some extent and the residue is diluted with EtOAc and water. The organic layer is sequently washed with 50 mL half sat. Na2CO3 solution (1×) and 50 mL water (1×). The organic layer is dried with MgSO4 and the solvent is removed in vacuo. The residue is treated with DIPE and PE to receive a precipitate which is filtered and dried to yield the desired product.

reactant | 5-bromo-2-((tert-butyldimethylsilyl)ethynyl)pyridine | 15.00 mmol, 4.6 g | BrC=1C=CC(=NC1)C#C[Si](C)(C)C(C)(C)C | C13H18BrNSi
reactant | methanol | 12 mL | CO | CH4O
reactant | p-tolyl-boronic acid | 17.3 mmol, 2.40 g | C1(=CC=C(C=C1)B(O)O)C | C7H9BO2
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-((tert-Butyldimethylsilyl)ethynyl)-5-p-tolylpyridine | [Si](C)(C)(C(C)(C)C)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)C | C20H25NSi
